US08492378B2
N-[4-(hydrazinocarbonyl)-2-pyridyl]-3-phenylpropionamide
A mixture of benzyl 2-[2-[(3-phenylpropanoyl)amino]isonicotinoyl]hydrazinecarboxylate (1.10 g, 2.63 mmol), 10% palladium on carbon (50 mg), methanol (20 mL) and tetrahydrofuran (20 mL) was stirred under a hydrogen atmosphere at room temperature 18 hr. The reaction mixture was filtered, and the filtrate was concentrated to give the title compound (748 mg, yield 100%) as colorless crystals.

reactant | benzyl 2-[2-[(3-phenylpropanoyl)amino]isonicotinoyl]hydrazinecarboxylate | 2.63 mmol, 1.10 g | C1(=CC=CC=C1)CCC(=O)NC=1C=C(C(=O)NNC(=O)OCC2=CC=CC=C2)C=CN1 | C23H22N4O4
reactant | methanol | 20 mL | CO | CH4O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-[4-(hydrazinocarbonyl)-2-pyridyl]-3-phenylpropionamide | 748 mg, yield 100% | N(N)C(=O)C1=CC(=NC=C1)NC(CCC1=CC=CC=C1)=O | C15H16N4O2
